US04108914
Referring now to the drawing, a feed stream comprising propylene and propane enters the process through line 33. This feed stream is admixed with a recycle stream comprising benzene which is passing through line 32 to form the material traveling through line 11. This material is admixed with the bottoms stream of a second rectification column, commonly referred to as the second rectifier, from line 10. The resultant stream is carried through heat exchanger 13 by line 12 to the junction with line 52. At this point a second benzene recycle stream is admixed with the hydrocarbons in line 12 to form a combined feed stream carried by line 14. This combined feed stream is heated in means 15 and passed into an alkylation reactor 16. The contacting of the benzene-propylene mixture with an alkylation catalyst maintained at alkylation-promoting conditions effects the reaction of benzene and propylene to form cumene in the reactor.

reactant | propylene | C=CC | C3H6
reactant | propane | CCC | C3H8
reactant | benzene propylene | C1=CC=CC=C1.C=CC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cumene | C1(=CC=CC=C1)C(C)C | C9H12
